US09023865B2
A mixture of trans-2-(6-(3-((S)-2-methoxy-1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxylic acid (13 mg, 0.020 mmol), 1-propanephosphonic acid cyclic anhydride (50% in EtOAc, 18.20 μl, 0.031 mmol), DIEA (10.68 μl, 0.061 mmol) and ethylamine (2M in THF) (102 μl, 0.204 mmol) in DCM (0.5 ml) was stirred at room temperature overnight and then concentrated. The residue was treated with TFA (500 μl, 6.49 mmol) and triethylsilane (7 μl, 0.044 mmol). The mixture was stirred at room temperature for 6 h and then concentrated. The residue was purified by preparative HPLC (Reverse phase C-18, Waters SunFire PrepODB, 150×19 mm, 5u), eluting with 10-90% Acetonitrile/Water+0.1% TFA (20 mL/min) over 15 min. to give trans-N-ethyl-2-(6-(3-((S)-2-methoxy-1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxamide (4.5 mg, 52% yield). MS ESI calc'd. for C22H26N6O3[M+1]+ 423, found 423. MS ESI calc'd. for C22H26N6O3[M−1]− 421, found 421.

reactant | trans-2-(6-(3-((S)-2-methoxy-1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxylic acid | 0.020 mmol, 13 mg | COC[C@H](C1=CC=CC=C1)NC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C@H]2[C@@H](C2)C(=O)O)=O | C39H35N5O4
reactant | 1-propanephosphonic acid cyclic anhydride | 0.031 mmol, 18.20 μl | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | DIEA | 0.061 mmol, 10.68 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | ethylamine | 0.204 mmol, 2M, 102 μl | C(C)N | C2H7N
reactant | TFA | 6.49 mmol, 500 μl | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.044 mmol, 7 μl | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
product | trans-N-ethyl-2-(6-(3-((S)-2-methoxy-1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxamide | 4.5 mg, 52% yield | C(C)NC(=O)[C@H]1[C@@H](C1)C1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](COC)C2=CC=CC=C2 | C22H26N6O3
